US06066639
To a 50 mL round bottom flask were charged 0.25 g (0.43 mmol) of diethyl N-{2-[2-pivaloylamino4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl]-4-thiazolylcarbonyl}-L-glutamate dissolved in 8 mL of glacial acetic acid, followed by the addition of 0.25 g of platinum oxide catalyst. The reaction was then stirred under hydrogen at 1 atmosphere for 24 hours The catalyst was then filtered away, and the filtrate was removed in vacuo. The residue was then purified using silica gel flash chromatography eluting with 2% methanol/chloroform to give 0.092 g (36%) of diethyl N-{2-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-4-thiazolylcarbonyl}-L-glutamate, m.p. 63-166° C., as a yellow solid. Rf =0.28 (5% methanol/chloroform); 1H NMR (300 MHz, DMSO d6) δ 1.09-1.23 (m, 15H), 1.73-1.77 (m, 3H), 1.97-2.10 (m, 4H), 2.34 (t, J=7.2 Hz, 2H), 2.50-2.62 (m, 2H), 2.86-2.95 (m, 1H), 3.08-3.12 (m, 2H), 3.964.11 (m, 4H), 4.43-4.45 (m, 1H), 6.46 (s, 1H), 8.14 (s, 1H), 8.48 (d, J=8.0 Hz, 1H).

reactant | diethyl N-{2-[2-pivaloylamino4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl]-4-thiazolylcarbonyl}-L-glutamate | 0.43 mmol, 0.25 g | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#CC=2SC=C(N2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)O | C27H30N6O7S
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.25 g | [Pt]=O
product | diethyl N-{2-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]-4-thiazolylcarbonyl}-L-glutamate | 0.092 g, 36% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC=2SC=C(N2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)O | C27H38N6O7S
